US06737435B1
(i) Ethyl 5-methoxy-3-methylindole-2-carboxylate
Concentrated sulphuric acid (1 ml) was added to a solution of 4-methoxyphenyl hydrazine hydrochloride (11.2 g) and 2-oxobutyric acid (8.72 g) in ethanol (250 ml), and the solution heated at reflux for 16 hours. The reaction was cooled, concentrated in vacuo, and the residue triturated with ethanol to give the title compound as a white solid (8.8 g, 59%). NMR δ 1.36 (t, 3H), 3.76 (s, 3H), 4.30 (q, 2H), 6.88 (dd, 1H), 7.03 (d, 1H), 7.28 (d, 1H), 11.28 (bs, 1H); m/z 232 (M−H+).

reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-methoxyphenyl hydrazine hydrochloride | 11.2 g | Cl.COC1=CC=C(C=C1)NN
reactant | 2-oxobutyric acid | 8.72 g | O=C(C(=O)O)CC | C4H6O3
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | Ethyl 5-methoxy-3-methylindole-2-carboxylate | 8.8 g, 59% | COC=1C=C2C(=C(NC2=CC1)C(=O)OCC)C | C13H15NO3
